US06265350B1
Sodium hydride (18.6 g, 60%, 464 mmol) was introduced into DMF (500 ml) under nitrogen. Trifluoroethanol (32.2 ml, 443 mmol) was added dropwise at 10° C. After 1 hour, 2,5-dibromopyridine (100 g, 422 mmol) was added portionwise, and the mixture was stirred in a water bath for 24 hours at 20° C. It was then stirred with water and extracted with heptane/ethyl acetate 9:1. Distillation of the crude product (105 g) yielded 5-bromo-2-trifluoroethoxypyridine, 82.1 g (purity 93%), colorless fluid, b.p. 97-104° C. at 18 mbar.

reactant | Sodium hydride | 464 mmol, 18.6 g | [H-].[Na+]
reactant | DMF | 500 ml | CN(C)C=O | C3H7NO
reactant | Trifluoroethanol | 443 mmol, 32.2 ml | C(C(F)(F)F)O | C2H3F3O
reactant | 2,5-dibromopyridine | 422 mmol, 100 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
solvent | water | O | H2O
product | 5-bromo-2-trifluoroethoxypyridine | BrC=1C=CC(=NC1)OCC(F)(F)F | C7H5BrF3NO
